US06720320B2
4-benzyloxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)-1H-indole
N′-(4-Benzyloxy-1H-indol-2-ylcarbonyl)acetohydrazide (7.5 g) was dissolved in tetrahydrofuran (250 ml) and triphenylphosphine (9.0 g) and triethylamine (6 ml) were added. The mixture was stirred under ice-cooling. Diisopropyl azodicarboxylate (40% toluene solution) (17.7 g) was added and the mixture was stirred at 50° C. for 2 hr. The reaction mixture was poured into ice water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (6.0 g) as yellow crystals.

reactant | N′-(4-Benzyloxy-1H-indol-2-ylcarbonyl)acetohydrazide | 7.5 g | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1)C(=O)NNC(C)=O | C18H17N3O3
reactant | triphenylphosphine | 9.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | Diisopropyl azodicarboxylate | 17.7 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-benzyloxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)-1H-indole | 6.0 g | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1)C=1OC(=NN1)C | C18H15N3O2
